US08729102B2
E) tert-butyl [(1S)-2-({1-benzyl-5-[(2,4-dihydroxyphenyl)carbamoyl]-4-methyl-1H-pyrazol-3-yl}oxy)-1-methylethyl]carbamate
Using 1-benzyl-3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-4-methyl-1H-pyrazole-5-carboxylic acid and 4-aminobenzene-1,3-diol hydrochloride, and in the same manner as in Example 2, step C, the title compound was obtained.

reactant | 1-benzyl-3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-4-methyl-1H-pyrazole-5-carboxylic acid | C(C1=CC=CC=C1)N1N=C(C(=C1C(=O)O)C)OC[C@H](C)NC(=O)OC(C)(C)C | C20H27N3O5
reactant | 4-aminobenzene-1,3-diol hydrochloride | Cl.NC1=C(C=C(C=C1)O)O
product | tert-butyl [(1S)-2-({1-benzyl-5-[(2,4-dihydroxyphenyl)carbamoyl]-4-methyl-1H-pyrazol-3-yl}oxy)-1-methylethyl]carbamate | C(C1=CC=CC=C1)N1N=C(C(=C1C(NC1=C(C=C(C=C1)O)O)=O)C)OC[C@H](C)NC(OC(C)(C)C)=O | C26H32N4O6
